US07858796B2
(73) 3-(1-{[3-(4-morpholinyl)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide (40 mg, 0.13 mmol) and morpholine (0.069 mL, 0.65 mmol) were allowed to react in the presence of K2CO3 (74 mg, 0.65 mmol). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (37.3 mg, 57%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide | 0.13 mmol, 40 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C21H24ClN3O3S2
reactant | morpholine | 0.65 mmol, 0.069 mL | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 0.65 mmol, 74 mg | C(=O)([O-])[O-].[K+].[K+]
product | 3-(1-{[3-(4-morpholinyl)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide | 37.3 mg, 57% | N1(CCOCC1)CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C25H32N4O4S2
